US06765012B2
3-{[4-(4-Diethylamino-butoxy)-phenylamino]-methylene}-1,3-dihydro-indol-2-one
A 25 mL pressure tube is charged with 3-{[4-(4-Iodo-butoxy)-phenylamino]-methylene}-1,3-dihydro-indol-2-one (75 mg, 0.173 mmol), diethylamine (2 mL) and the reaction mixture is heated at 50° C. for 3 h. The reaction mixture is cooled to room temperature and partitioned between EtOAc and H2O. The organic layer is washed with saturated aqueous NaHCO3 solution, brine, and dried over anhydrous Na2SO4. The organic layer is collected by filtration and concentrated to give a yellow solid. The solid is broken up in MeOH and collected by filtration to give the named compound as a yellow solid.

reactant | 3-{[4-(4-Iodo-butoxy)-phenylamino]-methylene}-1,3-dihydro-indol-2-one | 0.173 mmol, 75 mg | ICCCCOC1=CC=C(C=C1)NC=C1C(NC2=CC=CC=C12)=O | C19H19IN2O2
reactant | diethylamine | 2 mL | C(C)NCC | C4H11N
solvent | MeOH | CO | CH4O
product | 3-{[4-(4-Diethylamino-butoxy)-phenylamino]-methylene}-1,3-dihydro-indol-2-one | C(C)N(CCCCOC1=CC=C(C=C1)NC=C1C(NC2=CC=CC=C12)=O)CC | C23H29N3O2
